US05708188
0.92 g of 4-dimethylaminopyridine are added to a mixture of 10.15 g of 1,4-diketo-3,6-di-(4-cyanophenyl)pyrrolo[3,4-c]pyrrole and 19.6 g of di-tert-butyl dicarbonate in 400 ml of tetrahydrofuran. The red suspension so obtained is stirred for 20 hours at room temperature, excluding atmospheric moisture. The solvent is distilled off under reduced pressure. The brown residue is washed with methanol and dried under vacuum at room temperature, to give 10.6 g (66% of theory) of N,N'-di-tert-butoxycarbonyl-1,4-diketo-3,6-di-(4-cyanophenyl)pyrrolo[3,4-c]pyrrole.

reactant | 1,4-diketo-3,6-di-(4-cyanophenyl)pyrrolo[3,4-c]pyrrole | 10.15 g | O=C1N=C(C2=C1C(=NC2=O)C2=CC=C(C=C2)C#N)C2=CC=C(C=C2)C#N | C20H8N4O2
reactant | di-tert-butyl dicarbonate | 19.6 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
catalyst | 4-dimethylaminopyridine | 0.92 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
product | N,N'-di-tert-butoxycarbonyl-1,4-diketo-3,6-di-(4-cyanophenyl)pyrrolo[3,4-c]pyrrole | 10.6 g, 66% | C(C)(C)(C)OC(=O)N1C(C2=C(N(C(C2=C1C1=CC=C(C=C1)C#N)=O)C(=O)OC(C)(C)C)C1=CC=C(C=C1)C#N)=O | C30H26N4O6
